US08835432B2
To a solution of (S)-2-(1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione (150 mg, 423 μmol), 3-fluorophenylboronic acid (65 mg, 465 μmol) and sodium carbonate (90 mg, 846 μmol) in MeCN (8 mL) and water (2 mL) was purged with N2 followed by the addition of Pd(PPh3)4 (24 mg, 21 μmol) and the resulting mixture was stirred at 90° C. overnight. The reaction mixture was diluted with EtOAc washed with water, brine and dried over Na2SO4. Purification using preparatory TLC eluted with 100% EtOAc afforded 2-(((S)-1-(7-fluoro-2-(3-fluorophenyl)quinolin-3-yl)ethyl)carbamoyl)benzoic acid (120 mg, 66%). Mass Spectrum (ESI) m/e=433 (M+1). 2-(((S)-1-(7-Fluoro-2-(3-fluorophenyl)-quinolin-3-yl)ethyl)carbamoyl)benzoic acid was dissolved in EtOH (2 mL) and cond HCl (0.1 mL) was added. The resulting solution was heated to 80° C. for 4 h. Solvent was removed and satd NaHCO3 was added to the reaction mixture and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, concentrated and purified via preparatory TLC using 3% MeOH/DCM saturated with NH3 gas to afford a white solid of 2-((S)-1-(7-fluoro-2-(3-fluorophenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione (85 mg, 49%). Mass Spectrum (ESI) m/e=415 (M+1).

reactant | 2-(((S)-1-(7-Fluoro-2-(3-fluorophenyl)-quinolin-3-yl)ethyl)carbamoyl)benzoic acid | FC1=CC=C2C=C(C(=NC2=C1)C1=CC(=CC=C1)F)[C@H](C)NC(=O)C1=C(C(=O)O)C=CC=C1 | C25H18F2N2O3
reactant | HCl | 0.1 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-((S)-1-(7-fluoro-2-(3-fluorophenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 85 mg, 49% | FC1=CC=C2C=C(C(=NC2=C1)C1=CC(=CC=C1)F)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C25H16F2N2O2
